US06127540
Cis and trans 4-(t-butyldiphenylsilyloxymethyl)-2-(diethyloxyphosphinoyl)-1,3-oxathiolane
To a solution of 4-(t-butyldiphenylsilyloxymethyl)-2-ethoxy-1,3-oxathiolane (12.32 g, 30.6 mmol) and triethylphosphite (3.5 mL, 20.4 mmol, 0.66 eq) in dichloromethane (50 mL) were added phosphorus trichloride (890 μL, 10.2 mmol, 0.33 eq) and zinc chloride (catalytic) at 0° C. The solution was stirred at 0° C. for 1 hr and at room temperature for 3 days. The solvent was evaporated and the crude material was purified by flash chromatography with a mixture of hexane and ethyl acetate (60:40) to give the pure compound (8.02 g) in 53% yield with a ratio of 2:1 (trans:cis).

reactant | 4-(t-butyldiphenylsilyloxymethyl)-2-ethoxy-1,3-oxathiolane | 30.6 mmol, 12.32 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1SC(OC1)OCC | C22H30O3SSi
reactant | triethylphosphite | 20.4 mmol, 3.5 mL, 0.66 eq | C(C)OP(OCC)OCC | C6H15O3P
reactant | phosphorus trichloride | 10.2 mmol, 890 μL, 0.33 eq | P(Cl)(Cl)Cl | Cl3P
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
product | trans 4-(t-butyldiphenylsilyloxymethyl)-2-(diethyloxyphosphinoyl)-1,3-oxathiolane | 8.02 g, 53% yield | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@H]1S[C@@H](OC1)P(=O)(OCC)OCC | C24H35O5PSSi
